US04710323
1-(4-Bromophenyl)-4-(3-amino-4-chlorophenylsulfinyl)-benzene
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of 1-(4-bromophenyl)-4-(4-chloro-3-nitrophenylsulfinyl)-benzene, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | 1-(4-bromophenyl)-4-(4-chloro-3-nitrophenylsulfinyl)-benzene | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C18H11BrClNO3S
product | 1-(4-Bromophenyl)-4-(3-amino-4-chlorophenylsulfinyl)-benzene | Yield: 88% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)C1=CC(=C(C=C1)Cl)N | C18H13BrClNOS
